Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dizziness and unsteady gate
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female from ___
who presents to the ED with dizziness and falls. The patient is 
unfortunately a poor historian. History obtained from the 
patient and ___ interpreter via phone. She has been in 
___ x 2 days. The patient reports dizziness and
unsteadiness for approximately ___ years; she characterizes the 
dizziness as "lightheadedness." She denies any syncopal events, 
but her daughter noted that her gait was unsteady and she had 
several falls. She states she was evaluated for dizziness in 
___ and symptoms were attributed to menopause. She has no 
prior brain imaging. NCHCT reveals a left petrous apex mass 
concerning for meningioma.

 
Past Medical History:
Unknown
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ON ADMISSION: 

PHYSICAL EXAM:
**With ___ interpreter via phone
O: T: 98.3  BP: 167/83   HR: 90    R: 18   O2Sats: 100% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: PERRL         EOMs Full
Neck: Supple.
Lungs: No resp distress
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension. No dysarthria 
or
paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 4mm to
3mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Slight R facial asymmetry. 
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch

==================================================

ON DISCHARGE:

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 3-2mm
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No
Tongue Midline: [ ]Yes [x]No - deviates to R 
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
TrapDeltoidBicepTricepGrip
___

IPQuadHamATEHLGast
Right55___
Left5       5       5       5       5       5

[x]Sensation intact to light touch

 
Pertinent Results:
Please refer to ___ for pertinent imaging and lab results. 
 
Brief Hospital Course:
___ is a ___ year old female, from ___, 
who presents with symptoms of dizziness and unsteady gait. 
Imaging demonstrated a petrous apex brain lesion with mass 
effect, concerning for meningioma. 

#Petrous Brain Lesion
___ was admitted to the neurosurgery service 
on ___ with imaging concerning for meningioma. An MRI was 
obtained for further details. Both ENT and ophthalmology were 
consulted. The patient underwent visual field testing, per 
ophthalmology the testing was unreliable and has evidence of 
non-specific defects. MRA brain revealed patent intracranial 
vasculature however the mass encases several vessels without 
significant stenosis. Patient was seen by ___ for vestibular 
testing and it was recommended she be discharged home with 
outpatient vestibular ___. Upon re-examination on ___, physical 
therapy compiled home exercises for patient, and educated the 
patient and her daughter with an interpreter present. 
Radiation oncology was consulted and feels patient will benefit 
from radiation after surgical decompression of the brainstem. 
Patient was added to Brain Tumor Conference list for 
interdisciplinary discussion. It was determined that the patient 
would be discharged home and follow up in clinic in 4 weeks to 
discuss surgical resection options.

#Pituitary work-up
Strict I&Os were ordered. Labs were collected to check for 
pituitary function which showed elevated FSH and Prolactin 
levels. 

#ENT/Audiology
Audiology was consulted at the request of ENT for hearing and 
auditory brainstem response testing. The audiology testing 
revealed a low-to-mid frequency conductive hearing loss in the 
right ear, but normal hearing in the left ear. The auditory 
brainstem response testing was deferred to outpatient workup. 
The patient was provided with the appropriate numbers to contact 
for her Audiogram work up and an order was placed in ___ for 
clinic purposes. 

#Dysphagia
SLP was consulted and recommended soft texture foods with thin 
liquids. On ___, SLP was re-consulted and stated that soft foods 
were at the patient's discretion because she had the sensation 
of "food being caught", if patient not longer has these symptoms 
then she is able to progress to solid foods. 

#Dispo planning
Patient will need to have follow-up in 4 weeks for surgical 
planning. Pt will need Audiogram prior to this appointment. All 
appropriate information and numbers for appointments were 
relayed to patient and daughter with interpreter present. 

 
Medications on Admission:
Unknown
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Petrous Meningioma 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Diet:    Regular diet as tolerated. Speech Therapy is having you 
eat 
a soft diet because of the sensation of "food being stuck in 
your throat". If this sensation resolves, you may progress to a 
regular diet. 
Speech Therapy recommends: 
Sitting upright 90 degrees for all intake and for at least 30 
min following
Solid foods should be well-moistened - use extra sauces/gravies
Do not use straws
Please take small bites/sips
Please alternate liquids and solids 

Activity:
Open mouth to sneeze and cough (do not stifle sneeze or cough)
Walk as tolerated 
Please follow instructions given by the Physical Therapists and 
their exercises. 

Call or Return with:
Eye pain or redness
Vision changes
Increasing headache
Neck stiffness
Light sensitivity (e.g. headache with light or discomfort with 
exposure to light)
Worsening of dizziness or vertigo symptoms
Hearing loss
Tinnitis or ringing in your ears

Medications:
You may resume all regular medications
You may take acetaminophen for headaches. 
 
Followup Instructions:
___